US08222281B2
(21A) 1-(4-Chlorophenyl)-2,2,2-trifluoroethyl trifluoromethanesulfonate
1-(4-Chlorophenyl)-2,2,2-trifluoroethanol (1.20 g, 5.70 mmol) was dissolved in diethyl ether (80 mL), and the resulting solution was cooled to 0° C. Then, 63% sodium hydride (217 mg, 5.70 mmol) was added thereto, and the resulting mixture was stirred for 1 hour. Thereafter, trifluoromethanesulfonyl chloride (0.910 mL, 8.55 mmol) was added dropwise thereto. Then, the temperature of the reaction solution was raised to room temperature, and the reaction solution was stirred for 2 hours. Water was added to the reaction solution, and the organic matter was extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, then dried over anhydrous magnesium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 93:7 (v/v)), whereby the objective title compound was obtained as a colorless oily substance (495 mg, yield: 25%).

reactant | 1-(4-Chlorophenyl)-2,2,2-trifluoroethanol | 5.70 mmol, 1.20 g | ClC1=CC=C(C=C1)C(C(F)(F)F)O | C8H6ClF3O
reactant | sodium hydride | 5.70 mmol, 217 mg | [H-].[Na+]
reactant | trifluoromethanesulfonyl chloride | 8.55 mmol, 0.910 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | Water | O | H2O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | 1-(4-Chlorophenyl)-2,2,2-trifluoroethyl trifluoromethanesulfonate | yield: 25% | FC(S(=O)(=O)OC(C(F)(F)F)C1=CC=C(C=C1)Cl)(F)F | C9H5ClF6O3S
